US08541457B2
Synthesis of 4-Methyl-2-[4-(2H-tetrazol-5-yl)benzoylamino]thiazole-5-carboxylic Acid Benzylamide
A mixture of 2-(4-cyanobenzoylamino)-4-methylthiazole-5-carboxylic acid benzylamide (0.080 g, 0.21 mmol), sodium azide (0.028 g, 0.43 mmol) and ammonium chloride (0.006 g, 0.11 mmol) in N,N-dimethylformamide (5 mL) was stirred at 80° C. for 18 hours. The reaction mixture was cooled to ambient temperature, and 1 N hydrochloric acid (0.5 mL) solution was added. Ethyl acetate (10 mL) and brine (10 mL) were added to the reaction mixture. The organic layer was separated and dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrate in vacuo and the residue was purified by column chromatography to afford the title compound as a white solid in 23% yield (0.020 g); m.p.>300° C.; 1H NMR (CD3OD, 300 MHz) δ 8.20-8.09 (m, 4H), 8.45-7.20 (m, 5H), 4.51 (s, 2H), 2.55 (s, 3H); 13C NMR (CD3OD, 75 MHz) δ 163.6, 138.8, 128.4, 128.1, 127.1, 126.8, 126.5, 43.1, 15.8; MS (ES+) m/z 420.5 (M+1).

reactant | 2-(4-cyanobenzoylamino)-4-methylthiazole-5-carboxylic acid benzylamide | 0.21 mmol, 0.080 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)C#N)=O)C | C20H16N4O2S
reactant | sodium azide | 0.43 mmol, 0.028 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.11 mmol, 0.006 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 N, 0.5 mL | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | 10 mL | [Cl-].[Na+].O
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-2-[4-(2H-tetrazol-5-yl)benzoylamino]thiazole-5-carboxylic Acid Benzylamide | 23% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)C=1N=NNN1)=O)C | C20H17N7O2S
